US08877772B2
Preparation of 4-[5-bromo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-benzylamine (Intermediate CB)
5-Bromo-3-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (200 mg, 0.419 mmol), 4-aminomethylphenylboronic acid hydrochloride (95 mg, 0.503 mmol) and dichlorobis(triphenylphosphine)palladium (II) (29 mg, 0.042 mmol) were combined in CH3CN (5 ml) and 1 M Na2CO3 (5 ml) and stirred at 60° C. for 3 hrs. EtOAc was added, the organic phase was washed with water, dried and evaporated. to yield 136 mg (71%) of the title compound. MS ESI (m/z): 455.9/458.1 (M+1)+, calc. 455/457.

reactant | 5-Bromo-3-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.419 mmol, 200 mg | BrC=1C=C2C(=NC1)N(C=C2I)S(=O)(=O)C2=CC=C(C=C2)C | C14H10BrIN2O2S
reactant | 4-aminomethylphenylboronic acid hydrochloride | 0.503 mmol, 95 mg | Cl.NCC1=CC=C(C=C1)B(O)O
reactant | Na2CO3 | 1 M, 5 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH3CN | 5 ml | CC#N | C2H3N
catalyst | dichlorobis(triphenylphosphine)palladium | 0.042 mmol, 29 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[5-bromo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-benzylamine | 136 mg, 71% | BrC=1C=C2C(=NC1)N(C=C2C2=CC=C(CN)C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C21H18BrN3O2S
